US07153854B2
To a solution of 5-[3-(5-ethoxy-5-oxopentyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-4-yl]nicotinic acid (235 mg) and triethylamine (87.1 mg) in t-butanol (10 mL) was added diphenylphosphoryl azide (237 mg) and the mixture was heated under reflux for 2 hours. After evaporation of solvent, the residue was partitioned between ethyl acetate and water. The organic layer was separated, washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography eluting with a mixture of hexane and ethyl acetate (20:1–2:1) to give ethyl 5-(4-{5-[(tert-butoxycarbonyl)amino]-3-pyridinyl}-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl)pentanoate as yellow oil (190 mg)

reactant | 5-[3-(5-ethoxy-5-oxopentyl)-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-4-yl]nicotinic acid | 235 mg | C(C)OC(CCCCC1=C(C=2N(N=C1C)C(=CC2)CC)C=2C=NC=C(C(=O)O)C2)=O | C23H27N3O4
reactant | triethylamine | 87.1 mg | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 237 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | t-butanol | 10 mL | C(C)(C)(C)O | C4H10O
product | ethyl 5-(4-{5-[(tert-butoxycarbonyl)amino]-3-pyridinyl}-7-ethyl-2-methylpyrrolo[1,2-b]pyridazin-3-yl)pentanoate | 190 mg | C(C)(C)(C)OC(=O)NC=1C=C(C=NC1)C=1C=2N(N=C(C1CCCCC(=O)OCC)C)C(=CC2)CC | C27H36N4O4
